US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (25 mg, 0.095 mmol), potassium carbonate (26 mg, 0.19 mmol) and (bromomethyl)cyclopropane (14 μL, 0.14 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 90° C. for 2 hours. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography of the residue using hexanes/ethyl acetate/dichlrormethane (3.5:0.5:4) followed by trituration with diethyl ether afforded 12 mg (41%) of 3-(2-pyridyl)-5-(3-cyano-5-cylopropylmethoxyphenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.86 (d, 1H), 8.23 (d, 1H), 8.14 (s, 1H), 7.99 (s, 1H), 7.91 (t, 1H), 7.50 (m, 1H), 7.40 (s, 1H), 3.95 (d, 2H), 1.21 (m, 1H), 0.72 (m, 2H), 0.41 (m, 2H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.095 mmol, 25 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.19 mmol, 26 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (bromomethyl)cyclopropane | 0.14 mmol, 14 μL | BrCC1CC1 | C4H7Br
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-cylopropylmethoxyphenyl)-1,2,4-oxadiazole | 12 mg, 41% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCC1CC1)C#N | C18H14N4O2
